US07572797B2
2-(3,5-Dichloro-2-methoxy-phenyl)-4,4,5,5-tetramethyl-[1,3,2]-dioxaborolane
1-Bromo-3,5-dichloro-2-methoxybenzene (Preparation 25, 4.4 g, 17.5 mmol) in 95 ml diethylether was cooled to −78° C. under nitrogen. tBuLi (10 ml, 35.16 mmol) was added dropwise and the reaction stirred for 15 minutes. 2-Methoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (4.58 g, 29 mmol) was added and the reaction stirred at −78° C. for 1 hour before pouring the reaction into 50 ml ice cold ammonium chloride (aqueous). The product was extracted with diethylether (3×30 ml), the combined organic layers were washed with water (50 ml) and brine (2×25 ml), dried over sodium sulphate, and concentrated in vacuo to afford a yellow oil. This was purified using silica gel column chromatography (heptane:ethyl acetate 9:1) to furnish a yellow oil, 4.5 g

reactant | 1-Bromo-3,5-dichloro-2-methoxybenzene | 17.5 mmol, 4.4 g | BrC1=C(C(=CC(=C1)Cl)Cl)OC | C7H5BrCl2O
reactant | tBuLi | 35.16 mmol, 10 ml | [Li]C(C)(C)C
reactant | 2-Methoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 29 mmol, 4.58 g | COB1OC(C(O1)(C)C)(C)C | C7H15BO3
solvent | diethylether | 95 ml | C(C)OCC | C4H10O
product | 2-(3,5-Dichloro-2-methoxy-phenyl)-4,4,5,5-tetramethyl-[1,3,2]-dioxaborolane | ClC=1C(=C(C=C(C1)Cl)B1OC(C(O1)(C)C)(C)C)OC | C13H17BCl2O3
